US03998834
A mixture of 3.6 parts of 2-bromo-1-phenyl-1-propanone, 4.1 parts of N-[4-(methoxymethyl)-4-piperidinyl]-N-phenylpropanamide, 3.5 parts of N-(1-methylethyl)-2-propanamine and 80 parts of 4-methyl-2-pentanone is stirred and refluxed for 16 hours. The reaction mixture is cooled to room temperature and the precipitate is filtered off. The filtrate is evaporated. The oily residue is purified by column-chromatography over silica gel, using a mixture of trichloromethane and 3% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The oily residue solidifies on triturating in petroleumether. The product is filtered off and crystallized from 2,2'-oxybispropane. It is filtered off again and dried, yielding N-[1-(1-benzoylethyl)-4-(methoxymethyl)-4-piperidinyl]-N-phenylpropanamide; mp. 123° C.

reactant | 2-bromo-1-phenyl-1-propanone | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
reactant | N-[4-(methoxymethyl)-4-piperidinyl]-N-phenylpropanamide | COCC1(CCNCC1)N(C(CC)=O)C1=CC=CC=C1 | C16H24N2O2
reactant | N-(1-methylethyl)-2-propanamine | CC(C)NC(C)C | C6H15N
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | N-[1-(1-benzoylethyl)-4-(methoxymethyl)-4-piperidinyl]-N-phenylpropanamide | C(C1=CC=CC=C1)(=O)C(C)N1CCC(CC1)(COC)N(C(CC)=O)C1=CC=CC=C1 | C25H32N2O3
